US08067448B2
3-(2-bromoethyl)-2-chloro-4-fluorobenzonitrile
To a 25 mL round bottomed flask equipped with a magnetic stirrer was added triphenylphosphine (1.57 g, 6 mmol) and methylene chloride (8 mL). Upon cooling the mixture to −10° C., bromine (0.28 mL, 5.5 mmol) was added dropwise. After 10 min, 2-chloro-4-fluoro-3-(2-hydroxyethyl)benzonitrile (1 g, 5 mmol) in methylene chloride (6 mL) was added and stirring was continued for 20 min while the internal reaction temperature was allowed to warm to 15° C. The mixture was then diluted with hexane (30 mL) and purified via a silica plug [hexane-Et2O (20:1) as eluent]. The combined filtrates were concentrated to furnish the title compound (1.26 g, 96%): 1H NMR (400 MHz, Acetone-d6, δ in ppm) 7.92 (dd, J=6 and 9 Hz, 1H), 7.42 (t, J=9 Hz, 1H), 3.70 (t, J=7 Hz, 2H), 3.13 (dt, J=2 and 7 Hz, 2H).

reactant | triphenylphosphine | 6 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 5.5 mmol, 0.28 mL | BrBr | Br2
reactant | 2-chloro-4-fluoro-3-(2-hydroxyethyl)benzonitrile | 5 mmol, 1 g | ClC1=C(C#N)C=CC(=C1CCO)F | C9H7ClFNO
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | 30 mL | CCCCCC | C6H14
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-bromoethyl)-2-chloro-4-fluorobenzonitrile | 1.26 g, 96% | BrCCC=1C(=C(C#N)C=CC1F)Cl | C9H6BrClFN
